US05409943
(a) 2-Amino-3-(2-methylbenzyloxy)pyridine
A mixture of a -bromo-o-xylene (89.6 g, 0.48 mol) and 2-amino-3-hydroxypyridine (48 g, 0.436 mol) in 40% aqueous sodium hydroxide solution (250 ml) and dichloromethane (250 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. The aqueous layer was extracted with dichloromethane and the combined organic layers washed with water, dried and evaporated. Chromatography (silica gel, chloroform) gave the product as an oil which later solidified (45.4 g, 49%), m.p. 96°-98° C.

reactant | bromo-o-xylene | 0.48 mol, 89.6 g | BrC1=C(C(=CC=C1)C)C | C8H9Br
reactant | 2-amino-3-hydroxypyridine | 0.436 mol, 48 g | NC1=NC=CC=C1O | C5H6N2O
solvent | sodium hydroxide | 250 ml | [OH-].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2-methylbenzyloxy)pyridine | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
